US05527686
Cotinine hemisuccinate was prepared by dissolving 19 mg of trans-3'-hydroxycotinine in 1 ml of dimethylformamide (Aldrich). 21 mg of succinic anhydride (Aldrich) were added, followed by 15 μl of pyridine (Aldrich). The mixture was incubated overnight at 45° C.

reactant | trans-3'-hydroxycotinine | 19 mg | CN1[C@@H](C[C@H](C1=O)O)C2=CN=CC=C2 | C10H12N2O2
reactant | succinic anhydride | 21 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | pyridine | 15 μl | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | Cotinine | CN1[C@@H](CCC1=O)C=2C=CC=NC2 | C10H12N2O
